US04163053
(a) 5-(N-Methylanilino)-2-Pentanone
To 49.4 g (0.30 mol) 5-chloro-2-pentanone ethylene ketal and 64.2 g (0.60 mol) N-methylaniline in 100 ml toluene, add 27.7 g (0.33 mol) NaHCO3 and 2.0 g KI. Reflux with a water separator overnight. Allow to cool, filter, and concentrate. Distill at 50°/0.1 mm to remove N-methylaniline. Stir the residual liquid with 175 ml 1.0 N HCl for 2 hrs. Neutralize with NaHCO3 and extract with ether. Dry, concentrate, and distill to collect a fraction of b.p. 103°-110° /0.1 mm.

reactant | 5-chloro-2-pentanone ethylene ketal | 0.30 mol, 49.4 g | C1COC(C)(CCCCl)O1 | C7H13ClO2
reactant | N-methylaniline | 0.60 mol, 64.2 g | CNC1=CC=CC=C1 | C7H9N
reactant | NaHCO3 | 0.33 mol, 27.7 g | C(=O)(O)[O-].[Na+]
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(N-Methylanilino)-2-Pentanone | CN(C1=CC=CC=C1)CCCC(C)=O | C12H17NO
